US08466282B2
1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide hydrochloride
1-(4-Methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide (24.4 g) was dissolved in ethyl acetate (225 ml), and the mixture was heated to 45-55° C. 4M Hydrogen chloride-ethyl acetate (12.8 ml) was added dropwise, and the precipitate was dissolved at the same temperature. After confirmation of dissolution, heptane (75 ml) was added dropwise, and the mixture was cooled to 25-35° C. The seed crystal (45 mg) was added and the mixture was stirred for 30 min. The mixture was heated to 50-55° C., and heptane (150 ml) was added dropwise. The mixture was stirred at the same temperature for 1 hr, gradually cooled to 0-5° C., and stirred at the same temperature for 1 hr. The precipitated crystals were collected by filtration, washed with ethyl acetate-heptane (90 ml), and dried under reduced pressure at 40-50° C. to give the object product (15.3 g).

reactant | 1-(4-Methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide | 24.4 g | COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)CC(C)C | C27H41N5O4
reactant | Hydrogen chloride-ethyl acetate | 4M, 12.8 ml | C(C)(=O)OCC.Cl
reactant | heptane | 75 ml | CCCCCCC | C7H16
reactant | heptane | 150 ml | CCCCCCC | C7H16
solvent | ethyl acetate | 225 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-methoxybutyl)-N-(2-methylpropyl)-N-[(3S,5R)-5-(morpholin-4-ylcarbonyl)piperidin-3-yl]-1H-benzimidazole-2-carboxamide hydrochloride | 15.3 g | Cl.COCCCCN1C(=NC2=C1C=CC=C2)C(=O)N([C@@H]2CNC[C@@H](C2)C(=O)N2CCOCC2)CC(C)C | InChI=1S/C27H41N5O4.ClH/c1-20(2)19-32(22-16-21(17-28-18-22)26(33)30-11-14-36-15-12-30)27(34)25-29-23-8-4-5-9-24(23)31(25)10-6-7-13-35-3;/h4-5,8-9,20-22,28H,6-7,10-19H2,1-3H3;1H/t21-,22+;/m1./s1
